US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)-2-trifluoromethylbenzamide
Prepared analogously to Example 1g from (1S)-3-trifluoromethyl-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)butyl]aminocarbonyl}benzoic acid, TBTU, diisopropylethylamine, and 3-pyrroline in tetrahydrofuran. Yield: 64%; Rf value: 0.47 (silica gel: dichloromethane/ethanol=9:1); C24H22ClF3N4O2 (490.911); mass spectrum: (M+H)+=491/493 (chlorine isotope).

reactant | (1S)-3-trifluoromethyl-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)butyl]aminocarbonyl}benzoic acid | FC(C=1C=C(C(=O)O)C=CC1C(=O)N[C@@H](CCC)C1=NC2=C(N1)C=CC(=C2)Cl)(F)F | C20H17ClF3N3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-pyrroline | N1CC=CC1 | C4H7N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-4-(2,5-dihydropyrrol-1-ylcarbonyl)-2-trifluoromethylbenzamide | Yield: 64% | ClC1=CC2=C(NC(=N2)[C@H](CCC)NC(C2=C(C=C(C=C2)C(=O)N2CC=CC2)C(F)(F)F)=O)C=C1 | C24H22ClF3N4O2
